US06921821B2
4,6-Dihydroxy-chromen-2-one
4-Hydroxy-6-methoxy-chromen-2-one (500 mg, 2.588 mmol) was suspended in CH2Cl2 (10 mL) and cooled to −78° C. under nitrogen. BBr3 (1 M solution in CH2Cl2, 13 mL, 13 mmol) was added to this suspension dropwise. Following completion of the addition, the resulting suspension was stirred at 25° C. for 1 h before being quenched by the slow addition of H2O. The product was extracted with EtOAc and the combined organic layers dried over Na2SO4 and concentrated to give 350 mg (75%) of the title compound as a tan solid. MS (ESI(+)Q1MS) m/z 179 (M+H)+; 1H NMR (300 MHz, DMSO) δ ppm 9.71 (bs, 1H), 7.01-7.23 (m, 3H), 5.57 (s, 1H).

reactant | 4-Hydroxy-6-methoxy-chromen-2-one | 2.588 mmol, 500 mg | OC1=CC(OC2=CC=C(C=C12)OC)=O | C10H8O4
reactant | BBr3 | 13 mmol, 1 M, 13 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4,6-Dihydroxy-chromen-2-one | 350 mg, 75% | OC1=CC(OC2=CC=C(C=C12)O)=O | C9H6O4
